US08183246B2
6-{[6-(2-Methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Add 0.45 ml of a 2 M aqueous sodium carbonate solution to a mixture of 200 mg (0.45 mmol) 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester and 16 mg (0.02 mmol) bis(triphenylphosphine)palladium(II) chloride in 10 ml dimethylsulphoxide. Next, add 85 mg (0.56 mmol) (2-methoxyphenyl)boronic acid and stir the mixture for 15 h at 80° C. Filter the reaction mixture and purify directly by preparative RP-HPLC (gradient: water/acetonitrile). 63 mg (42% of theor.) of the desired product is obtained.

reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.45 mmol, 200 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)Br)=O | C20H22BrN3O4
reactant | (2-methoxyphenyl)boronic acid | 0.56 mmol, 85 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-{[6-(2-Methoxyphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)OC)=O | C27H29N3O5
